US05371096
To a solution prepared by adding 497 ml (1 mole) of 2.01 molar solution of n-butyllithium in hexane into 2 l of ether at -60° C., is added dropwise with stirring under argon at -78° C. a solution of 172 g (1.09 mole) of 3-bromopyridine in 50 ml of ether over a period of 15 min. The mixture is stirred at -78° C. for an additional 30 min and a solution of 100 g(1 mole) of δ-valerolactone in 100 ml of ether is added dropwise over a period of 15 min. The mixture is stirred at -78° C. for 3 h, quenched with 500 ml of concentrated aqueous ammonium chloride, washed with water, dried (MgSO4) and evaporated to give 5-hydroxy-1-(3-pyridyl)pentan-1-one as an oil.

reactant | n-butyllithium | C(CCC)[Li]
reactant | 3-bromopyridine | 1.09 mole, 172 g | BrC=1C=NC=CC1 | C5H4BrN
reactant | δ-valerolactone | 1 mole, 100 g | C1(CCCCO1)=O | C5H8O2
solvent | hexane | CCCCCC | C6H14
solvent | ether | 50 ml | CCOCC | C4H10O
solvent | ether | 100 ml | CCOCC | C4H10O
solvent | ether | 2 l | CCOCC | C4H10O
product | 5-hydroxy-1-(3-pyridyl)pentan-1-one | OCCCCC(=O)C=1C=NC=CC1 | C10H13NO2
